US04367234
5-(5-Chloro-2-methoxy-3-methylphenyl)-oxazolidine-2,4-dione
By the procedure of Example 9, except that methylene chloride was used in place of chloroform for product extraction following the quench, ethyl 1-(5-chloro-2-methoxy-3-methylphenyl)-1-hydroxymethanecarboximidate hydrochloride (2.5 g., 8.5 mmoles) in 250 ml. of tetrahydrofuran was reacted with phosgene in the presence of triethylamine (2.7 g., 27 mmoles). The product was isolated by pouring the reaction mixture slowly over 1 liter of crushed ice. The aqueous phase was separated and extracted with three portions of methylene chloride. The combined organic phase/extracts was evaporated to solids. The crude product was taken up in 1 N sodium hydroxide, extracted with ether, and acidifed with 3 N hydrochloric acid to precipitate the desired product (1.81 g., 83%, m.p. 184°-186° C.). Recrystallization from toluene gave purified 5-(5-chloro-2-methoxy-3-methylphenyl)oxazolidine-2,4-dione (1.57 g., 72% overall; m.p. 187°-189° C.).

reactant | ethyl 1-(5-chloro-2-methoxy-3-methylphenyl)-1-hydroxymethanecarboximidate hydrochloride | 8.5 mmoles, 2.5 g | Cl.ClC=1C=C(C(=C(C1)C(C(OCC)=N)O)OC)C
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 27 mmoles, 2.7 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(5-Chloro-2-methoxy-3-methylphenyl)-oxazolidine-2,4-dione | ClC=1C=C(C(=C(C1)C1C(NC(O1)=O)=O)OC)C | C11H10ClNO4
